US06835731B2
Preparation of Pyridine-2-sulfonic Acid (4-formyl-phenyl)-amide:
To a stirred solution of pyridine-2-sulfonic acid (4-hydroxymethyl-phenyl)-amide (200 mg, 0.76 mmol), and pyridine (612 μL) in anhydrous CH2Cl2 (3mL) was added Dess-Martin periodiane (450 mg, 1.06 mmol). The resultant solution was stirred at room temperature for 1 h. The mixture was diluted with 100 mL CH2Cl2, filtered through celite, and concentrated. The crude material was purified by recrystallisation from cold CH2Cl2 to give the title compound (120 mg, 60%) as a yellow powder. 1H NMR (300 MHz, CDCl3) δ 7.34 (d, 2H, J=8.4 Hz), 7.49-7.50 (m, 1H), 7.74 (br s, 1H), 7.75 (d, 2H, J=8.4 Hz), 7.89-7.70 (m, 1H), 8.03 (d, 1H, J=8.1 Hz), 8.70 (d, 1H, J=4.2 Hz), 9.87 (s, 1H).

reactant | pyridine-2-sulfonic acid (4-hydroxymethyl-phenyl)-amide | 0.76 mmol, 200 mg | OCC1=CC=C(C=C1)NS(=O)(=O)C1=NC=CC=C1 | C12H12N2O3S
reactant | pyridine | 612 μL | N1=CC=CC=C1 | C5H5N
reactant | Dess-Martin | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 3mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Pyridine-2-sulfonic Acid (4-formyl-phenyl)-amide | 120 mg, 60% | C(=O)C1=CC=C(C=C1)NS(=O)(=O)C1=NC=CC=C1 | C12H10N2O3S
